US07566699B2
To a mixture of 2′,4′,6′-trihydroxyacetophenone monohydrate (5 g) and potassium carbonate (7.42 g) in N,N-dimethylformamide (100 mL) was added benzyl bromide (6.39 mL) under ice-cooling, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1-5/1) to give 2′,4′-dibenzyloxy-6′-hydroxyacetophenone (5.71 g). This material was suspended in ethanol (45 mL)-water (15 mL). To the suspension was added potassium hydroxide (11.0 g), and the mixture was stirred at room temperature for 10 minutes. Benzaldehyde (2.51 mL) was added to the mixture, and the resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was acidified by addition of concentrated hydrochloric acid, and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give 2′,4′-dibenzyloxy-6′-hydroxychalcone (4.85 g). This material was dissolved in N,N-dimethylformamide (40 mL)-acetone (12 mL). To the solution were added potassium carbonate (2.3 g) and methyl bromoacetate (1.1 mL), and the mixture was stirred at room temperature for 8 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethylether. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (30 mL). To the solution was added 10% palladium-carbon powder (0.5 g), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1-2/1) to give the title compound (2.26 g).

reactant | 2′,4′,6′-trihydroxyacetophenone monohydrate | 5 g | O.OC1=C(C(=CC(=C1)O)O)C(C)=O
reactant | potassium carbonate | 7.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 6.39 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2′,4′-dibenzyloxy-6′-hydroxyacetophenone | 5.71 g | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)OCC1=CC=CC=C1)O)C(C)=O | C22H20O4
